US09382238B2
A suspension of 1-bromo-3-nitro-5-(trifluoromethyl)benzene (1 g, 3.70 mmol) in 1,4-dioxane (12 mL) and water (4 mL) was added to a solution of 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.771 g, 3.70 mmol) in 1,4-dioxane (12 mL) and water (4 mL). PdCl2(dppf) (0.271 g, 0.370 mmol) and Cs2CO3 (2.413 g, 7.41 mmol) were added and the mixture was heated at 100° C. for 20 min. The mixture was then cooled to rt. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by silica column chromatography (PE/EA=1:1). All fractions found to contain product by TLC (PE/EA=5:1, Rf=0.3) were combined and concentrated to yield a light yellow solid of 1-methyl-4-(3-nitro-5-(trifluoromethyl)phenyl)-1H-pyrazole (300 mg, 1.106 mmol, 29.9% yield): 1H NMR (400 MHz, CDCl3) δ 8.47 (s, 1H), 8.31 (s, 1H), 7.99 (s, 1H), 7.89 (s, 1H), 7.81 (s, 1H), 4.01 (s, 3H). ES-LCMS m/z 272 (M+H).

reactant | 1-bromo-3-nitro-5-(trifluoromethyl)benzene | 3.70 mmol, 1 g | BrC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C7H3BrF3NO2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 3.70 mmol, 0.771 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | Cs2CO3 | 7.41 mmol, 2.413 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
catalyst | PdCl2(dppf) | 0.370 mmol, 0.271 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-methyl-4-(3-nitro-5-(trifluoromethyl)phenyl)-1H-pyrazole | 1.106 mmol, 300 mg, 29.9% yield | CN1N=CC(=C1)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C11H8F3N3O2
